US07071175B1
Methyl chloroformate (338 μL, 4.4 mmol) was added dropwise to a solution of crude 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl methyl)-2-methyl-malonic acid monoethyl ester (1.9 g) and Et3N (641 μL, 4.6 mmol) in THF (30 mL) at −20° C. The reaction mixture was stirred for 50 min., filtered and added dropwise to a suspension of NaBH4 (182 mg, 4.8 mmol) in THF (30 mL) at −20° C. The reaction was stirred for 16 h at room temperature. 0.5 M HCl was added followed by methylene chloride. The organic phase was washed with brine and dried. Concentration under reduced pressure followed by chromathography (toluene/EtOAc, 10:1→1:3) gave 3-(6-[N,N-bis(tert-butoxycarbonyl)-amino]-5-methyl-pyridin-3-yl)-2-hydroxymethyl-2-methyl-propionic acid ethyl ester (885 mg, 49%).

reactant | Methyl chloroformate | 4.4 mmol, 338 μL | ClC(=O)OC | C2H3ClO2
reactant | 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl methyl)-2-methyl-malonic acid monoethyl ester | 1.9 g | C(C)OC(C(C(=O)O)(C)CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C23H34N2O8
reactant | Et3N | 4.6 mmol, 641 μL | CCN(CC)CC | C6H15N
reactant | NaBH4 | 4.8 mmol, 182 mg | [BH4-].[Na+]
reactant | HCl | 0.5 M | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(6-[N,N-bis(tert-butoxycarbonyl)-amino]-5-methyl-pyridin-3-yl)-2-hydroxymethyl-2-methyl-propionic acid ethyl ester | 885 mg, 49% | C(C)OC(C(CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(C)CO)=O | C23H36N2O7
